US08729102B2
D) 1-(2-Bromo-4-(methoxymethoxy)phenyl)propan-2-one
To a mixture of 2-(2-bromo-4-(methoxymethoxy)phenyl)-N-methoxy-N-methylacetamide (4.30 g) in ether (93 ml) was added methyl magnesium bromide (3 M in ether, 63 mL) dropwise at 0° C. After addition, the solution was stirred at 0° C. for 1.5 hr. The mixture was poured into saturated aqueous ammonium chloride, and extracted with ethyl acetate (100 mL×2). The organic phase was dried over anhydrous sodium sulfate, The solvent was removed under reduced pressure, and the residue was purified by silica gel column chromatography (petroleum ether/ethyl acetate) to afford the title compound (23 g).

reactant | 2-(2-bromo-4-(methoxymethoxy)phenyl)-N-methoxy-N-methylacetamide | 4.30 g | BrC1=C(C=CC(=C1)OCOC)CC(=O)N(C)OC | C12H16BrNO4
reactant | methyl magnesium bromide | 3 M, 63 mL | C[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | 93 ml | CCOCC | C4H10O
product | 1-(2-Bromo-4-(methoxymethoxy)phenyl)propan-2-one | 23 g | BrC1=C(C=CC(=C1)OCOC)CC(C)=O | C11H13BrO3
